US08232319B2
2-Chloro-4-(3-methylphenoxy)benzaldehyde
m-Cresol and 2-chloro-4-fluorobenzaldehyde were reacted according to the same experiment procedures as in Reference Example 1 of the pamphlet of WO 03029184 to obtain the target product as a colorless powder.

reactant | m-Cresol | C1=C(C=CC=C1O)C | C7H8O
reactant | 2-chloro-4-fluorobenzaldehyde | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
product | 2-Chloro-4-(3-methylphenoxy)benzaldehyde | ClC1=C(C=O)C=CC(=C1)OC1=CC(=CC=C1)C | C14H11ClO2
